US04871765
9.4 g of N-[2-hydroxy-2-(4-hydroxyphenyl)ethyl]-N'-methanesulfonyl-N"-[2-[[5-[N-methyl-N(trichloroacetyl)aminomethyl]-2-furyl]methylthio]ethyl]guanidine was dissolved in a mixture of 8 ml of ethanol and 47 ml of a 1N aqueous sodium hydroxide solution in a nitrogen atmosphere. The mixture was stirred at room temperature for 2 hours. Then, the mixture was adjusted to pH 9.7 with 6N hydrochloric acid with ice-cooling, a seed crystal was added thereto and the mixture was stirred for 4 hours at room temperature. The crystals deposited were collected by filtration to obtain 6.0 g (yield: 84%) of N-[2-hydroxy-2-(4hydroxyphenyl)ethyl]-N'-methanesulfonyl-N"-[2-[[5-(methylamino)methyl-2-furyl]methylthio]ethyl]guanidine.

reactant | N-[2-hydroxy-2-(4-hydroxyphenyl)ethyl]-N'-methanesulfonyl-N"-[2-[[5-[N-methyl-N(trichloroacetyl)aminomethyl]-2-furyl]methylthio]ethyl]guanidine | 9.4 g | OC(CNC(=NCCSCC=1OC(=CC1)CN(C(C(Cl)(Cl)Cl)=O)C)NS(=O)(=O)C)C1=CC=C(C=C1)O | C21H27Cl3N4O6S2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-[2-hydroxy-2-(4hydroxyphenyl)ethyl]-N'-methanesulfonyl-N"-[2-[[5-(methylamino)methyl-2-furyl]methylthio]ethyl]guanidine | 6.0 g, yield: 84% | OC(CNC(=NCCSCC=1OC(=CC1)CNC)NS(=O)(=O)C)C1=CC=C(C=C1)O | C19H28N4O5S2
